US07790751B2
A suspension of 3-(1-naphthylsulfonyl)-5-(piperidin-4-yloxy)-1H-indazole (56.0 mg, 0.137 mmol) in 1,2-dichloroethane was treated sequentially with propionaldehyde (0.01 mL, 0.1 mmol) in 1,2-dichloroethane and acetic acid (0.1 mL, 2 mmol), stirred at ambient temperatures under nitrogen for 2 hours, treated with additional propionaldehyde (0.1 mL, 1 mmol) to aid in solubility, stirred at ambient temperatures for 1.5 hours, treated with sodium triacetoxyborohydride (59.8 mg, 0.283 mmol), stirred for 1.25 hours at ambient temperatures, diluted with ethyl acetate and poured into excess 1.0 N sodium hydroxide. The phases were separated. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo at 81° C. for 20 minutes to yield 3-(1-naphthylsulfonyl)-5-(1-propylpiperidin-4-yloxy)-1H-indazole as a light orange solid, 50.4 mg (81.8% yield). The solid was dissolved in chloroform and methanol, treated with ethereal HCl and concentrated in vacuo at 82° C. for 15 hours to give the title product as a light orange semi-solid, 40.2 mg, Mass spectrum (+EI, [M+H]+) m/z 450. 1HNMR (500 MHz, DMSO-d6): δ14.16 (d, 1H, J=3.78 Hz), 9.97-10.10 (m*, 1H), 8.70-8.76 (m, 1H), 8.55 (dd, 1H, J=7.44 Hz and 1.22 Hz), 8.26-8.28 (m, 1H), 8.02-8.04 (m, 1H), 7.70-7.75 (m, 1H), 7.54-7.63 (m, 3H), 7.27-7.37 (s* and s*, 1H), 7.08-7.20 (dd* and m*, 1H, J=9.03 Hz and 2.08 Hz), 4.59-4.80 (m*, 1H), 3.50-3.53 (m, 1H), 3.31-3.34 (m, 1H), 2.97-3.19 (m, 4H), 2.08-2.15 (m, 2H), 1.96-2.00 (m, 1H), 1.80-1.90 (m, 1H), 1.63-1.72 (m, 2H), 0.86-0.91 ppm (m, 3H). *Conformational isomers due to protonation of tertiary amine.

reactant | 3-(1-naphthylsulfonyl)-5-(piperidin-4-yloxy)-1H-indazole | 0.137 mmol, 56.0 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OC1CCNCC1 | C22H21N3O3S
reactant | propionaldehyde | 0.1 mmol, 0.01 mL | C(CC)=O | C3H6O
reactant | acetic acid | 2 mmol, 0.1 mL | C(C)(=O)O | C2H4O2
reactant | propionaldehyde | 1 mmol, 0.1 mL | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 0.283 mmol, 59.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1.0 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-naphthylsulfonyl)-5-(1-propylpiperidin-4-yloxy)-1H-indazole | 81.8% yield | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OC1CCN(CC1)CCC | C25H27N3O3S
